US04478849
N-[2-(4-Carboxyphenyl)-1-methylethyl]-2-hydroxy-2-phenylethanamine
2-Hydroxy-2-phenylethanamine (0.68 g) and 1-(4-carbobenzyloxyphenyl)propan-2-one (1.34 g) were refluxed in benzene (50 ml) in a Dean and Stark apparatus for 2 hours. The solvent was removed, tetrahydrofuran (50 ml), benzene (10 ml) and water (3 ml) were added followed by sodium borohydride (0.9 g). The reaction mixture was left at room temperature overnight. The solvent was removed under reduced pressure and the residue partitioned between water and ether. The layers were separated and the organic layer dried (MgSO4). Removal of the solvent gave the title compound as the benzyl ester (1.67 g). This was dissolved in ethanol and hydrogenated at 75 psi and 50° for 4 hours. Filtration and evaporation of the solvent gave the title compound mp 180°-190° (ethyl acetate-methanol). τ (TFA-d) 8.5 (3H, d, J=7 Hz), 5.85-7.45 (5H, m), 4.72 (1H, broad), 2.6 (7H, m), 1.8 (2H, d, J=8 Hz). τ (d6DMSO+D2O+NaOD) 9.05 (3H, d, J=7 Hz), 6.9-7.8 (5H, m), 2.85 (2H, d, J=8 Hz), 2.7 (5H, s), 2.17 (2H, d, J=8 Hz).

reactant | 2-Hydroxy-2-phenylethanamine | 0.68 g | OC(CN)C1=CC=CC=C1 | C8H11NO
reactant | 1-(4-carbobenzyloxyphenyl)propan-2-one | 1.34 g | C(=O)(OCC1=CC=CC=C1)C1=CC=C(C=C1)CC(C)=O | C17H16O3
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-[2-(4-Carboxyphenyl)-1-methylethyl]-2-hydroxy-2-phenylethanamine | C(=O)(O)C1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)O | C18H21NO3
